US04146647
2-(2,6-Dichlorobenzylamino)-pyrimidine hydrochloride
10.5 g (0.125 mol) of sodium bicarbonate in 100 ml of distilled water are introduced into a solution of 38 g (0.4 mol) of 2-amino-pyrimidine at 90°-95° C., after which 19.55 g (0.1 mol) of 2,6-dichlorobenzyl chloride are introduced in 1 hour, and the mixture is then left at 90°-95° C. for 4 hours. It is cooled and the insoluble matter is filtered off and washed copiously with distilled water. This insoluble matter is recrystallised from ethyl acetate. Thereafter it is dissolved in hot ethyl acetate and the hydrochloride is precipitated by means of a solution of hydrogen chloride in ether.

reactant | sodium bicarbonate | 0.125 mol, 10.5 g | C([O-])(O)=O.[Na+]
reactant | 2-amino-pyrimidine | 0.4 mol, 38 g | NC1=NC=CC=N1 | C4H5N3
reactant | 2,6-dichlorobenzyl chloride | 0.1 mol, 19.55 g | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
solvent | water | 100 ml | O | H2O
product | 2-(2,6-Dichlorobenzylamino)-pyrimidine hydrochloride | Cl.ClC1=C(CNC2=NC=CC=N2)C(=CC=C1)Cl | InChI=1S/C11H9Cl2N3.ClH/c12-9-3-1-4-10(13)8(9)7-16-11-14-5-2-6-15-11;/h1-6H,7H2,(H,14,15,16);1H
